US04772755
4-Hydroxy-4-(phenylethynyl)-5-(3-butenyl)-2-cyclohexen-1-one (using (CH2 =CH--CH2CH2)2Mg reagent for step (b))
Phenylacetylene (0.61 g, 0.006 mole) was added to a dry 25 mL flask containing dry THF (5 mL), n-butyllithium (4 mL of 1.48 M) and a few crystals of triphenylmethane. After stirring for several min at RT, the reaction was cooled to about 0 C., added to a flask containing benzoquinone (0.63 g, 0.006 mole) dissolved in dry THF (10 mL) and cooled to -78° C. The reaction was maintained at -35° C. to -25° during the addition. After stirring for about 15 min at -30° C., 4.6 mL of DMPU was added. The dialkylmagnesium product of Example 6a was filtered under nitrogen into the reaction mixture and the filter cake washed with ether. After stirring at -35° C. for 5 min, the reaction was allowed to warm to RT and stirred overnight. The reaction was quenched into saturated ammonium chloride solution and extracted with ether. The ether extracts were washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield 1.1 g of a mixture which was purified by flash chromatography on silica gel using 4:1 hexane/EtOAc to yield two major fractions. The first compound-bearing fraction, 0.63 g (39%) represented the desired 1,2-1,4 product. A second compound-bearing fraction, 0.51 g (32%) was the 1,2-1,2 adduct.

reactant | Phenylacetylene | 0.006 mole, 0.61 g | C1(=CC=CC=C1)C#C | C8H6
reactant | n-butyllithium | 1.48 M, 4 mL | C(CCC)[Li]
reactant | triphenylmethane | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
reactant | benzoquinone | 0.006 mole, 0.63 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMPU | 4.6 mL | CN1CCCN(C1=O)C | C6H12N2O
product | 4-Hydroxy-4-(phenylethynyl)-5-(3-butenyl)-2-cyclohexen-1-one | 1.1 g | OC1(C=CC(CC1CCC=C)=O)C#CC1=CC=CC=C1 | C18H18O2
